US08580762B2
benzyl 3-(3-((((3aR,4R,6R,6aR)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dim ethyltetrahydro furo[3,4-d][1,3]dioxol-4-yl)methyl)amino)cyclobutyl)propanoate
To a solution of 7-((3aR,4R,6R,6aR)-6-(aminomethyl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine (2.5 g, 5.49 mmol), benzyl 3-(3-oxocyclobutyl)propanoate (1.66 g, 7.14 mmol) and HOAc (329 mg, 5.49 mmol) in DCE (40 mL) was added NaB(OAc)3H (2.33 g, 11 mmol) in one portion. Then the resulting reaction mixture was stirred at rt overnight. Saturated aqueous NaHCO3 (40 mL) was added to quench the reaction, then was extracted with DCM (50 mL×3), dried over anhydrous Na2SO4 and concentrated. The crude was purified by SGC (DCM:MeOH=100:1 to 50:1) to afford the desired compound (2.3 g, yield: 64%) as a white solid. 1H NMR (500 MHz, MeOD): δH 8.14 (d, J=2.5 Hz, 1H), 7.35-7.28 (m, 5H), 7.20 (d, J=4.0 Hz, 1H), 7.13 (d, J=8.0 Hz, 1H), 6.64 (d, J=3.0 Hz, 1H), 6.53 (d, J=2.0 Hz, 1H), 6.42 (d, J=8.5 Hz, 1H), 6.18 (d, J=2.5 Hz, 1H), 5.40-5.39 (m, 1H), 5.08-5.07 (m, 2H), 4.96-4.94 (m, 1H), 4.64 (s, 2H), 4.26-4.24 (m, 1H), 3.82 (s, 3H), 3.75 (s, 3H), 3.10-3.05 (m, 0.55H), 2.86-2.82 (m, 2H), 2.26-2.20 (m, 3H), 2.10-1.59 (m, 5H), 1.58 (s, 3H), 1.37 (s, 3H), 1.35-1.25 (m, 0.6H), 1.15-1.08 (m, 0.5H) ppm; LC-MS (m/z): 672.4 [M+1]+.

reactant | 7-((3aR,4R,6R,6aR)-6-(aminomethyl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 5.49 mmol, 2.5 g | NC[C@H]1O[C@H]([C@H]2[C@@H]1OC(O2)(C)C)N2C=CC1=C2N=CN=C1NCC1=C(C=C(C=C1)OC)OC | C23H29N5O5
reactant | benzyl 3-(3-oxocyclobutyl)propanoate | 7.14 mmol, 1.66 g | O=C1CC(C1)CCC(=O)OCC1=CC=CC=C1 | C14H16O3
reactant | HOAc | 5.49 mmol, 329 mg | CC(=O)O | C2H4O2
reactant | NaB(OAc)3H | 11 mmol, 2.33 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | 40 mL | C(=O)(O)[O-].[Na+]
solvent | DCE | 40 mL | ClCCCl | C2H4Cl2
product | benzyl 3-(3-((((3aR,4R,6R,6aR)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dim ethyltetrahydro furo[3,4-d][1,3]dioxol-4-yl)methyl)amino)cyclobutyl)propanoate | 2.3 g, yield: 64% | COC1=C(CNC=2C3=C(N=CN2)N(C=C3)[C@@H]3O[C@@H]([C@@H]2[C@H]3OC(O2)(C)C)CNC2CC(C2)CCC(=O)OCC2=CC=CC=C2)C=CC(=C1)OC | C37H45N5O7
